US07691892B2
a) 4-methyl-5-pyridin-3-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione
Nicotinohydrazide (10 g, 73 mmol) and methyl isothiocyanate (5.6 g, 76 mmol) were mixed in 2-propanol (150 ml) and heated to 70° C. o.n. The reaction was cooled to r.t. and evaporated to dryness. H2O (180 mL) and NaHCO3 (12.8 g, 152 mmol) were added to the residue and the mixture was refluxed o.n. The reaction mixture was cooled to r.t., acidified with concentrated HCl and the title compound, 13.1 g (93%), was collected by filtration. LC-MS (M++1): 193

reactant | Nicotinohydrazide | 73 mmol, 10 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | methyl isothiocyanate | 76 mmol, 5.6 g | CN=C=S | C2H3NS
reactant | NaHCO3 | 152 mmol, 12.8 g | C(=O)(O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
solvent | H2O | 180 mL | O | H2O
product | 4-methyl-5-pyridin-3-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C=1C=NC=CC1)=S | C8H8N4S
